US06596751B2
3-[4-(6-Methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]-2-methylthiopropionic acid hydrochloride (hydrochloride of exemplification compound number 5-4)
To a solution of ethyl 3-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]-2-methylthiopropionate (2.0 g) in tetrahydrofuran (25 ml) were added successively potassium hydroxide monohydrate (0.42g), and dimethylformamide (5 ml). The mixture was stirred at room temperature for 2 hours. After addition of potassium hydroxide (0.42 g) and water (5 ml) the mixture was stirred at room temperature for 20 minutes. And then after addition of dimethylformamide (5 ml) the mixture was further stirred at room temperature for 1 hour and allowed to stand over night. To the reaction mixture was further added potassium hydroxide (0.42 g), water (5 ml) and dimethylformamide (5 ml) and the the mixture was stirred at 75° C. for 8 hours. The reaction mixture was poured into 1N hydrochloric acid (800 ml), stirred for 30 minutes and filtrated to give crystals. The crystals were washed successively with water, acetone and ethyl acetate and dried under reduced pressure to afford the title compound (1.27 g, mp 201-206° C.).

reactant | ethyl 3-[4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]-2-methylthiopropionate | 2.0 g | COC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC(C(=S)OCC)C)C)C1 | C22H26N2O3S
reactant | potassium hydroxide monohydrate | 0.42g | O.[OH-].[K+]
reactant | potassium hydroxide | 0.42 g | [OH-].[K+]
reactant | potassium hydroxide | 0.42 g | [OH-].[K+]
reactant | hydrochloric acid | 1N, 800 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-[4-(6-Methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenyl]-2-methylthiopropionic acid hydrochloride | 1.27 g | Cl.COC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC(C(=S)O)C)C)C1 | InChI=1S/C20H22N2O3S.ClH/c1-13(20(23)26)10-14-4-6-15(7-5-14)25-12-19-21-17-9-8-16(24-3)11-18(17)22(19)2;/h4-9,11,13H,10,12H2,1-3H3,(H,23,26);1H
